US05882628
b. N,N'-Bis(2-hydroxypropionyl)-N,N'-bis(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
N,N'-Bis(2-acetoxypropionyl)-N,N'-bis(2-acetoxyethyl)-3,5-diamino-2,4,6-triiodobenzylacetate (175 mg, 0.18 mmol) was dissolved in a mixture of methanol (8 ml) and water (8 ml) and pH was adjusted to 12 with 1M aqueous NaOH. After stirring for 3 h, the solution was neutralized with aqueous HCl. Purification by preparative HPLC gave 50 mg (37%) of the pure product.

reactant | N,N'-Bis(2-acetoxypropionyl)-N,N'-bis(2-acetoxyethyl)-3,5-diamino-2,4,6-triiodobenzylacetate | 0.18 mmol, 175 mg | C(C)(=O)OC(C(=O)N(C=1C(=C(CCC(=O)[O-])C(=C(C1I)N(CCOC(C)=O)C(C(C)OC(C)=O)=O)I)I)CCOC(C)=O)C
reactant | NaOH | 1M | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | methanol | 8 ml | CO | CH4O
solvent | water | 8 ml | O | H2O
product | N,N'-Bis(2-hydroxypropionyl)-N,N'-bis(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | 50 mg, 37% | OC(C(=O)N(C=1C(=C(CO)C(=C(C1I)N(CCO)C(C(C)O)=O)I)I)CCO)C | C17H23I3N2O7
